US07550478B2
Step 7: 3-chloro-6-fluoro-7-hydroxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
To a stirred solution of 3-chloro-6-fluoro-7-methoxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (2.0 g, 6.9 mmol) in CH2Cl2 (100 mL) was added BBr3 (1 M in CH2Cl2, 27.6 mL, 27.6 mmol) at −78° C. The mixture was allowed to warm to room temperature as the bath did. After 6 h at room temperature, the mixture was cooled to 0° C. and treated with aqueous NaHCO3 solution. The yellow precipitate was filtered, washed with CH2Cl2, and dried under high-vacuum overnight to afford the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 8.93 (d, 1H); 8.28 (d, 1H); 7.46 (d, 1H); 7.37 (d, 1H); 7.33 (t, 1H); 7.08 (d, 1H). LRMS (ESI) calc'd for (C14H7ClFNO2) [M+H]+, 276.0; found 276.0.

reactant | 3-chloro-6-fluoro-7-methoxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 6.9 mmol, 2.0 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C(=C(C=C1)OC)F | C15H9ClFNO2
reactant | BBr3 | 27.6 mmol, 1 M, 27.6 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-6-fluoro-7-hydroxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C(=C(C=C1)O)F | C14H7ClFNO2
